US07718692B2
B. 1H-Pyrrole-2-carboxylic acid (4-hydroxy-phenyl)-amide
This compound was prepared from 1H-pyrrole-2-carboxylic acid (4-benzyloxyphenyl)-amide (2.5 g, 8.55 mmol), using the same method used to prepare of pyridine-2-carboxylic acid (4-hydroxyphenyl)amide. The product was purified by flash chromatography, on silica gel, eluted with 5 to 7.5% methanol in DCM, to give the product as a colorless solid, 1.47 g (85%). MS m/z 203 (MH+). 1H NMR(DMSO-d6) δ 6.14 (m, 1H), 6.72 (d, 2H), 6.92 (m, 1H), 6.99 (d, 1H), 7.47 (d, 2H), 9.19 (s, 1H). Anal. calcd for C11H10N2O2: C, 65.34; H, 4.98; N, 13.85. Found: C, 65.15; H, 4.83; N, 13.81.

reactant | 1H-pyrrole-2-carboxylic acid (4-benzyloxyphenyl)-amide | 8.55 mmol, 2.5 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC(=O)C=1NC=CC1 | C18H16N2O2
reactant | pyridine-2-carboxylic acid (4-hydroxyphenyl)amide | OC1=CC=C(C=C1)NC(=O)C1=NC=CC=C1 | C12H10N2O2
product | 1H-Pyrrole-2-carboxylic acid (4-hydroxy-phenyl)-amide | OC1=CC=C(C=C1)NC(=O)C=1NC=CC1 | C11H10N2O2
